US04665174
2-Ethyl-3-hydroxy-4-cyclopentenone (12.6 g) was dropwise added to a mixture of allylamine (25 g) and toluene (25 g) in the same flask as used in Example 1 at a temperature of 10° to 20° C. for 1 hour. The reaction mixture was kept at a temperature of 20° to 30° C. for 3 hours. After completion of the reaction, the mixture was treated and purified in the same manner as in Example 1 to obtain 2-ethyl-4-allylamino-2-cyclopentenone (15.7 g). Yield, 95%. nD20 1.4924.

reactant | 2-Ethyl-3-hydroxy-4-cyclopentenone | 12.6 g | C(C)C1C(C=CC1O)=O | C7H10O2
reactant | allylamine | 25 g | C(C=C)N | C3H7N
solvent | toluene | 25 g | C1(=CC=CC=C1)C | C7H8
product | 2-ethyl-4-allylamino-2-cyclopentenone | 15.7 g | C(C)C=1C(CC(C1)NCC=C)=O | C10H15NO
